US09359337B2
A solution of pyrrolidin-3-ylmethyl-carbamic acid tert-butyl ester (0.50 g, 2.50 mmol), 1-bromo-4-trifluoromethyl-benzene (0.62 g, 2.75 mmol), sodium tert-butoxide (0.36 g, 3.47 mmol), (R)-(+)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (155 mg, 0.25 mmol) and tris(dibenzylideneacetone)-dipalladium (0) (114 mg, 0.13 mmol) in toluene (5 mL) at 25° C. was purged with nitrogen gas and evacuated three times. The solution was sealed and heated to 120° C. for 14 h. The reaction mixture was cooled to 25° C., unsealed and poured into water. The aqueous phase was extracted three times with ethyl acetate. The combined organic layers were washed with brine and dried over magnesium sulfate. Solvents were evaporated and the residue was purified by flash column chromatography (80/20 hexanes/ethyl acetate) to afford [1-(4-trifluoromethyl-phenyl)-pyrrolidin-3-ylmethyl]-carbamic acid tert-butyl ester (500 mg, 58%) as a light oil.

reactant | pyrrolidin-3-ylmethyl-carbamic acid tert-butyl ester | 2.50 mmol, 0.50 g | C(C)(C)(C)OC(NCC1CNCC1)=O | C10H20N2O2
reactant | 1-bromo-4-trifluoromethyl-benzene | 2.75 mmol, 0.62 g | BrC1=CC=C(C=C1)C(F)(F)F | C7H4BrF3
reactant | sodium tert-butoxide | 3.47 mmol, 0.36 g | CC(C)([O-])C.[Na+]
reactant | (R)-(+)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.25 mmol, 155 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)-dipalladium (0) | 0.13 mmol, 114 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | [1-(4-trifluoromethyl-phenyl)-pyrrolidin-3-ylmethyl]-carbamic acid tert-butyl ester | 500 mg, 58% | C(C)(C)(C)OC(NCC1CN(CC1)C1=CC=C(C=C1)C(F)(F)F)=O | C17H23F3N2O2
